US09302989B2
N-(4-{[benzyl(methyl)amino]methyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide
A suspension of isoindoline (0.1 g, 0.839 mmol) and N-ethyl-N-isopropylpropan-2-amine (0.219 ml, 1.259 mmol) in acetonitrile (2.80 ml) was treated with N-methylpyrrolidine (2.80 ml). The solution was cooled to 0° C. and 1-(chloromethyl)-4-isocyanatobenzene (0.155 g, 0.923 mmol) was added. After stirring for 2 hours at 0° C., the reaction was treated with a solution of N-methyl-1-phenylmethanamine (0.102 g, 0.839 mmol) in 0.5 mL acetonitrile. The reaction was stirred at 0° C. for 5 minutes and at ambient temperature for 30 minutes. The reaction was treated with water and the mixture was stirred for 4 hours. The suspension was filtered and the solid collected was washed with water and dried under vacuum to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.31 (s, 1H), 7.56-7.49 (m, 2H), 7.40-7.28 (m, 8H), 7.27-7.19 (m, 3H), 4.76 (bs, 4H), 3.47 (s, 2H), 3.43 (s, 2H), 2.06 (s, 3H); MS (ESI(+)) m/e 372 (M+H)+.

reactant | isoindoline | 0.839 mmol, 0.1 g | C1NCC2=CC=CC=C12 | C8H9N
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.259 mmol, 0.219 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-methylpyrrolidine | 2.80 ml | CN1CCCC1 | C5H11N
reactant | 1-(chloromethyl)-4-isocyanatobenzene | 0.923 mmol, 0.155 g | ClCC1=CC=C(C=C1)N=C=O | C8H6ClNO
reactant | N-methyl-1-phenylmethanamine | 0.839 mmol, 0.102 g | CNCC1=CC=CC=C1 | C8H11N
solvent | acetonitrile | 2.80 ml | C(C)#N | C2H3N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-(4-{[benzyl(methyl)amino]methyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)N(C)CC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C24H25N3O
